US06660744B1
cis-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (154 mg, 0.349 mmol), 4-[(phenethylamino)carbonyl]-3-methoxyphenylboronic acid (115 mg, 0.384 mmol), palladium tetrakistriphenyphosphine (24 mg, 0.021 mmol) and sodium carbonate (89 mg, 0.839 mmol) were mixed with ethylene glycol dimethyl ether (4 mL) and water (2 mL). The reaction mixture was heated at reflux overnight. Organic solvent was removed under reduced pressure and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with water then brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichloromethane/methanol (95:5) as mobile phase to give cis-N1-phenethyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxybenzamide (64 mg, 32%). 1H NMR (CDCl3-d) δ 1.62 (m, 4H), 2.16 (m, 16H), 2.87 (m, 2H), 3.57 (m, 2H), 3.90 (s, 3H), 4.83 (m, 1H), 7.31 (m, 7H), 7.95 (m, 1H), 8.22 (m, 2H); LC/MS (Micromass-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 3.5 mL/min.): MH+ =569.3, Rt=2.50 min.

reactant | cis-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.349 mmol, 154 mg | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | 4-[(phenethylamino)carbonyl]-3-methoxyphenylboronic acid | 0.384 mmol, 115 mg | C(CC1=CC=CC=C1)NC(=O)C1=C(C=C(C=C1)B(O)O)OC | C16H18BNO4
reactant | sodium carbonate | 0.839 mmol, 89 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | cis-N1-phenethyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxybenzamide | 64 mg, 32% | C(CC1=CC=CC=C1)NC(C1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)OC)=O | C32H40N8O2
